US07371773B2
Production of (Z)-2,3-bis-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 56)
3,4-Dimethoxybenzaldehyde (1.00 g) and 3,4-dimethoxybenzyl cyanide (1.07 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (1.75 g, yield: 89%).

reactant | 3,4-Dimethoxybenzaldehyde | 1.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | 3,4-dimethoxybenzyl cyanide | 1.07 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2,3-bis-(3,4-dimethoxy-phenyl)-acrylonitrile | 1.75 g, yield: 89% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC(=C(C=C1)OC)OC | C19H19NO4
